US09216998B2
To a solution of tert-butyl 6-phenethyl-7-(trifluoromethyl)-3,4-dihydro-[1,4]diazepino[6,7,1-hi]indole-2(1H)-carboxylate (1.4 g; 3.1 mmol) in CH2Cl2 at 0° C. was added 4M HCl in 1,4-dioxane (3.8 mL, 15.4 mmol). The resulting solution was warmed to room temperature and stirred overnight. The solid was collected to yield 6-phenethyl-7-(trifluoromethyl)-1,2,3,4-tetrahydro-[1,4]diazepino[6,7,1-hi]indole (1.1 g).

reactant | tert-butyl 6-phenethyl-7-(trifluoromethyl)-3,4-dihydro-[1,4]diazepino[6,7,1-hi]indole-2(1H)-carboxylate | 3.1 mmol, 1.4 g | C(CC1=CC=CC=C1)C=1C(=C2C=CN3C2=C(C1)CNC(C3)C(=O)OC(C)(C)C)C(F)(F)F | C25H27F3N2O2
reactant | HCl | 4M | Cl | ClH
reactant | 1,4-dioxane | 15.4 mmol, 3.8 mL | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 6-phenethyl-7-(trifluoromethyl)-1,2,3,4-tetrahydro-[1,4]diazepino[6,7,1-hi]indole | 1.1 g | C(CC1=CC=CC=C1)C=1C(=C2C=CN3C2=C(C1)CNCC3)C(F)(F)F | C20H19F3N2
